US20010001799A1
A solution of 2.87 g of methyl (RS)-(4-cyano-phenylamino)-(3,5-diformyl-phenyl)-acetate in 20 ml of dioxan and 1.3 ml of DMF was treated with 3.18 g of methyltriphenylphosphonium bromid and 1.84 g of potassium carbonate. The suspension was heated for 3 days to 100° C. It was left to cool to room temperature, filtered and concentrated. The crude product was isolated by extraction isoliert and purified by chromatography on silica gel. There were obtained 1.31 g of methyl (RS)-(4-cyano-phenylamino)-(3-formyl-5-vinyl-phenyl)-acetate as a light yellow solid.

reactant | methyl (RS)-(4-cyano-phenylamino)-(3,5-diformyl-phenyl)-acetate | 2.87 g | C(#N)C1=CC=C(C=C1)NC(C(=O)OC)C1=CC(=CC(=C1)C=O)C=O | C18H14N2O4
reactant | potassium carbonate | 1.84 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 1.3 ml | CN(C)C=O | C3H7NO
catalyst | methyltriphenylphosphonium bromid | 3.18 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl (RS)-(4-cyano-phenylamino)-(3-formyl-5-vinyl-phenyl)-acetate | 1.31 g | C(#N)C1=CC=C(C=C1)NC(C(=O)OC)C1=CC(=CC(=C1)C=C)C=O | C19H16N2O3
